US07419975B2
{2-[(S)-2-(2-Benzyl-2H-tetrazol-5-yl)-pyrrolidin-1-yl]-1-cyclohexyl-2-oxo-ethyl}-carbamic acid tert-butyl ester (E).
To a solution of (S)-tert-butoxycarbonylamino-cyclohexyl-acetic acid (123.8 mg, 0.48 mmol) in DMA (5 mL) is added HBTU (248.8 mg, 0.656 mmol), HOBt (88.6 mg, 0.656 mmol) and diisopropylethylamine (305 uL, 1.75 mmol). The mixture is stirred at room temperature for 5 minutes. A solution of compound D in DCM (5 mL) is added to the above mixture at 0° C. The reaction mixture is stirred at room temperature for 1 hour and concentrated under vacuum. The residue is diluted with EtOAc. The organic is washed with brine, citric acid(5%), brine, NaHCO3(Sat.) and brine. The organic layer is then dried and concentrated under vacuum. The residue is purified by flash column chromatography (Hexanes/EtOAc) to provide the title compound 190 mg (92%). M+H+=369.

reactant | (S)-tert-butoxycarbonylamino-cyclohexyl-acetic acid | 0.48 mmol, 123.8 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C1CCCCC1 | C13H23NO4
reactant | HBTU | 0.656 mmol, 248.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.656 mmol, 88.6 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 1.75 mmol, 305 uL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | {2-[(S)-2-(2-Benzyl-2H-tetrazol-5-yl)-pyrrolidin-1-yl]-1-cyclohexyl-2-oxo-ethyl}-carbamic acid tert-butyl ester | 190 mg, 92% | C(C)(C)(C)OC(NC(C(=O)N1[C@@H](CCC1)C=1N=NN(N1)CC1=CC=CC=C1)C1CCCCC1)=O | C25H36N6O3
